US07612211B2
A. 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-benzoimidazole-1-carboxylic acid tert-butyl ester
A mixture of 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole (1.00 g, 2.69 mmol), Boc2O (0.706 g, 3.23 mmol), Et3N (1.1 mL, 8.07 mmol), and DMAP (0.03 g, 0.269 mmol) in CH2Cl2 (20 mL) was stirred for 1 hour. The reaction mixture was concentrated, and the residue was purified by chromatography (silica, hexanes: EtOAc, 6:1) to afford the title compound as a pale yellow oil (1.23 g, 97%).

reactant | 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole | 2.69 mmol, 1.00 g | BrC1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1 | C15H10BrF3N2O
reactant | Boc2O | 3.23 mmol, 0.706 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 8.07 mmol, 1.1 mL | CCN(CC)CC | C6H15N
catalyst | DMAP | 0.269 mmol, 0.03 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-benzoimidazole-1-carboxylic acid tert-butyl ester | 1.23 g, 97% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)Br)COC2=CC=C(C=C2)C(F)(F)F | C20H18BrF3N2O3
